### PR TITLE
[Merged by Bors] - feat(Geometry): convex hull in a `ConvexSpace`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

- [x] depends on: #38905

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/Hull.lean [hunk 1]
```diff
@@ -0,0 +1,118 @@
...
+    rw [← Set.Nonempty.subset_singleton_iff, ← hs]
+    · exact subset_convexHull_self
+    · by_contra! hs
+      simp_all [eq_comm (a := ∅)]
+  mpr hs := by simp [hs]
+
+variable (R s t) in
+lemma convexHull_convexHull_union :
+    convexHull R (convexHull R s ∪ t) = convexHull R (s ∪ t) :=
+  ClosureOperator.closure_sup_closure_left ..
```
Comment (martinwintermath) [inline Mathlib/Geometry/Convex/Hull.lean:95]: Isn't this just `convexHull  R (convexHull R s) = convexHull R s`, the union not needed?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Hull.lean:95]: The union is inside a single convex hull

File: Mathlib/Geometry/Convex/Hull.lean [hunk 2]
```diff
@@ -0,0 +1,118 @@
...
+open Set
+
+namespace Convexity
+variable {R X Y : Type*} [Semiring R] [PartialOrder R] [IsStrictOrderedRing R] [ConvexSpace R X]
+  [ConvexSpace R Y] {C s t : Set X} {x y : X}
+
+variable (R) in
+/-- The convex hull of a set `s` is the minimal convex set that includes `s`. -/
+def convexHull (s : Set X) : Set X :=
+  ClosureOperator.ofCompletePred (IsConvexSet R) (fun _ ↦ .sInter) s
```
Comment (martinwintermath) [inline Mathlib/Geometry/Convex/Hull.lean]: Can we have

```lean4
def convexHull : ClosureOperator (Set X) := 
  .ofCompletePred (IsConvexSet R) (fun _ ↦ .sInter)
```

The file seems to compile with this change.

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Hull.lean]: I purposefully avoided this because the fact that the convex hull is defined as a closure operator is an implementation detail that should not leak to the API. This allows me to use the `ClosureOperator` API to make the `convexHull` one without having `convexHull` itself be a `ClosureOperator`

Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Hull.lean]: Though, if later properties of convex sets or faces are proven for closure operators more generally, we cannot use these facts directly but need to duplicate the API here. We can change this later, but I wonder whether this is not a decent reason to expose the operator nature of convex hull.

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Hull.lean]: This seems too theoretical to worry about just now. Let's revisit later?

**Review by TBUGTB — COMMENTED** [review]
The PR looks good to me overall. It seems to me the only pending question is about exposing `ClosureOperator` API or not.

File: Mathlib/Geometry/Convex/Hull.lean (hunk 2 above)
Comment (TBUGTB) [reply Mathlib/Geometry/Convex/Hull.lean]: My first intuition about the convex hull would be that you only need to establish a few basic facts using the closure operator definition and once you have those you can prove things on a geometric level and forget about `ClosureOperator`. I've not thought about this deeply and might be overlooking something. But my general tendency would be towards the solution that @YaelDillies proposed.

Comment (martinwintermath) [reply Mathlib/Geometry/Convex/Hull.lean]: My point is exactly that you will not need to prove these things on a geometric level if they follow from abstract closure operator properties. But I am happy to revisit this at a later time as I would also like to see this PR merged.

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Hull.lean]: Yes, it is very easy to change `convexHull` to have type `ClosureOperator (Set E)` later if we want to. Let's get this merged!

File: Mathlib/Geometry/Convex/Hull.lean [hunk 3]
```diff
@@ -0,0 +1,118 @@
...
+@[simp] lemma convexHull_eq_singleton : convexHull R s = {x} ↔ s = {x} where
+  mp hs := by
+    rw [← Set.Nonempty.subset_singleton_iff, ← hs]
+    · exact subset_convexHull_self
+    · by_contra! hs
+      simp_all [eq_comm (a := ∅)]
+  mpr hs := by simp [hs]
+
+variable (R s t) in
+lemma convexHull_convexHull_union :
```
Comment (ocfnash) [inline Mathlib/Geometry/Convex/Hull.lean:93]:
```suggestion
@[simp]
lemma convexHull_convexHull_union :
```

File: Mathlib/Geometry/Convex/Hull.lean [hunk 4]
```diff
@@ -0,0 +1,118 @@
...
+    convexHull R (convexHull R s ∪ t) = convexHull R (s ∪ t) :=
+  ClosureOperator.closure_sup_closure_left ..
+
+variable (R s t) in
+lemma convexHull_union_convexHull_right :
```
Comment (ocfnash) [inline Mathlib/Geometry/Convex/Hull.lean]:
```suggestion
@[simp]
lemma convexHull_union_convexHull_right :
```

File: Mathlib/Geometry/Convex/Hull.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Geometry/Convex/Hull.lean]: I don't understand why we shouldn't give this type `ClosureOperator (Set X)` right away exactly as proposed [above](https://github.com/leanprover-community/mathlib4/pull/38934/changes#r3252664522).

**Review by ocfnash — COMMENTED** [review]
I'm very happy to see this work but I'd like to know more about the plan to deal with the existing [convexHull](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Hull.html#convexHull) definition.

In an ideal world, we'd atomically remove the old `convexHull` as we add this one. In a slightly less ideal world we might redefine the old one in terms of this one and add some doc strings about the eventual plans.

Can you comment on this?

**Comment by YaelDillies** [comment]
The eventual plan is to replace all the existing convexity library with the new one. However I cannot conveniently do this before this PR because the existing library develops the material in the order "convex sets -> convex hull -> convex combinations" while the new ones does "convex combinations -> convex sets -> convex hull".

After this PR is merged, I intend to replace at once all three concepts in the existing library with their new versions. Later concepts (like convex functions) will follow as their new version gets merged into mathlib (probably one PR for the new version and one for the replacement still, to keep things reviewable).

**Comment by ocfnash** [comment]
> The eventual plan is to replace all the existing convexity library with the new one. However I cannot conveniently do this before this PR because the existing library develops the material in the order "convex sets -> convex hull -> convex combinations" while the new ones does "convex combinations -> convex sets -> convex hull".

Thanks, understood.

> After this PR is merged, I intend to replace at once all three concepts in the existing library with their new versions. Later concepts (like convex functions) will follow as their new version gets merged into mathlib (probably one PR for the new version and one for the replacement still, to keep things reviewable).

This is a good plan. My only worry is that with the best of intentions, it might get delayed. How confident are you that it will happen quickly?

**Comment by YaelDillies** [comment]
Very confident. I am currently prioritising this refactor because it is required for barycentric subdivision, and I have performed this sort of mass replacements efficiently before. So long as the reviews follow, it could be done within the coming week (for convex sets, hulls and combinations).

**Comment by ocfnash** [comment]
OK let's take the chance!

bors d+

**Comment by YaelDillies** [comment]
bors merge
